US07342131B2
Step F: (1R)-1-Methyl-2-phenylcarbonyloxyethyl (2S)-2-amino-3-(3,4-dihydroxyphenyl)propanoate hydrochloride
(1R)-1-Methyl-2-phenylcarbonyloxyethyl (2S)-3-(3,4-dihydroxyphenyl)-2-[(tert-butoxy)carbonylamino]propanoate (1.87 g, 4 mmol) was dissolved in 40 mL of 4M HCl in dioxane. The resulting mixture was stirred at room temperature for 30 min. Dioxane was evaporated completely under reduced pressure. The resulting white solid was dissolved in acetonitrile (5 mL), and ether added until the solution became slightly cloudy. The solution was refrigerated overnight and the product was crystallized. The white crystalline solid was collected and dried under vacuum to afford 1.5 g (93%) of the title compound. 1H NMR (400 MHz, CD3OD): δ 1.35 (d, J=6.4 Hz, 3H), 3.01 (dd, J=6.8, 14.4 Hz, 1H), 3.08 (dd, J=6.4, 14.4 Hz, 1H), 4.19 (t, J=6.4 Hz, 1H), 4.34 (dd, J=6, 12.4 Hz, 1H), 4.49 (dd, J=2.8, 12.4 Hz, 1H), 5.35 (m, 1H), 6.55 (dd, J=2, 8 Hz, 1H), 6.66 (d, J=2 Hz, 1H), 6.71 (d, J=8 Hz, 1H), 7.48 (t, J=7.2 Hz, 2H), 7.61 (t, J=7.2 Hz, 1H), 8.02 (d, J=7.6 Hz, 2H). MS (ESI) m/z 360.16 (M+H)+ and 358.13 (M−H)−.

reactant | (1R)-1-Methyl-2-phenylcarbonyloxyethyl (2S)-3-(3,4-dihydroxyphenyl)-2-[(tert-butoxy)carbonylamino]propanoate | 4 mmol, 1.87 g | OC=1C=C(C=CC1O)C[C@@H](C(=O)O[C@@H](COC(=O)C1=CC=CC=C1)C)NC(=O)OC(C)(C)C | C24H29NO8
reactant | HCl | 4M, 40 mL | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (1R)-1-Methyl-2-phenylcarbonyloxyethyl (2S)-2-amino-3-(3,4-dihydroxyphenyl)propanoate hydrochloride | 1.5 g, 93% | Cl.N[C@H](C(=O)O[C@@H](COC(=O)C1=CC=CC=C1)C)CC1=CC(=C(C=C1)O)O | InChI=1S/C19H21NO6.ClH/c1-12(11-25-18(23)14-5-3-2-4-6-14)26-19(24)15(20)9-13-7-8-16(21)17(22)10-13;/h2-8,10,12,15,21-22H,9,11,20H2,1H3;1H/t12-,15+;/m1./s1
